US08222424B2
2-Chloro-5-(thiophene-2-carbonyl)-benzenesulfonamide
To a solution of thiophene (0.27 g, 3.20 mmol) dissolved in tetrahydrofuran (10 mL) at −78° C. under nitrogen is dropwisely added 1.6 M of n-butyllithium (2 mL, 3.40 mmol). The reaction mixture is stirred at −78° C. for 1 h then a solution 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide (0.3 g, 1.08 mmol) in tetrahydrofuran (2 mL) is added slowly and the reaction mixture is allowed to warm to room temperature and stirred for 1 h. The reaction is quenched with saturated ammonium chloride and extracted with ethyl acetate three times. The combined organic extracts are washed with a saturated sodium chloride solution, dried with magnesium sulfate, and concentrated in vacuo. Purification by silica gel chromatography (50% ethyl acetate-hexane) provides 0.059 g (18%) of the title compound as a yellow solid. 1H NMR (DMSO): δ 8.33 (d, J=2 Hz, 1H), 8.15 (dd, J=4, 1 Hz, 1H), 8.05 (dd, J=8, 4 Hz, 1H), 7.85 (m, 4H), 7.35 (m, 1H). Analytics calculated for C11H8ClO3S2: C, 43.78; H, 2.67; N, 4.64. Found: C, 43.70; H, 2.61; N, 4.61. MS (m/z): 300.0 (M−1).

reactant | thiophene | 3.20 mmol, 0.27 g | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 3.40 mmol, 1.6 M, 2 mL | C(CCC)[Li]
reactant | 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide | 1.08 mmol, 0.3 g | ClC1=C(C=C(C(=O)N(C)OC)C=C1)S(N)(=O)=O | C9H11ClN2O4S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-Chloro-5-(thiophene-2-carbonyl)-benzenesulfonamide | 0.059 g, 18% | ClC1=C(C=C(C=C1)C(=O)C=1SC=CC1)S(=O)(=O)N | C11H8ClNO3S2
